### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): Prove `A * B = 1 ↔ B * A = 1` for square matrices over a commutative semiring

### PR DESCRIPTION
**Pull request by tb65536**
This PR generalizes `Matrix.mul_eq_one_comm` from `CommRing` to `CommSemiring`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 1]
```diff
@@ -0,0 +1,275 @@
...
+  have := hσ.symm.trans hτ
+  contradiction
+
+lemma filterp_disjUnion :
+    (filterp 1).disjUnion (filterp (-1)) filterp_disjoint = (univ : Finset (Perm n)) := by
+  ext σ
+  simp_rw [mem_disjUnion, mem_filterp, Int.units_eq_one_or, mem_univ]
+
+/-- Filter determinant by parity. -/
+def detp := ∑ σ ∈ filterp s, ∏ k, A k (σ k)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:48]: nit:
```suggestion
def detp : R := ∑ σ ∈ filterp s, ∏ k, A k (σ k)
```

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 2]
```diff
@@ -0,0 +1,275 @@
...
+namespace Matrix
+
+open Equiv Finset
+
+variable {n m R : Type*} [Fintype m] [Fintype n] [DecidableEq m] [DecidableEq n] [CommSemiring R]
+
+variable (s : ℤˣ) (A B : Matrix n n R) (i j : n)
+
+/-- Filter by parity -/
+def filterp : Finset (Perm n) := univ.filter fun σ ↦ σ.sign = s
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:29]: This perhaps should be called `Perm.ofParity` or `Perm.withParity` or something, rather than being in the matrix namespace. I'm pretty sure I've needed this construction before in a determinant-like proof; maybe @urkud has seen it with his recent AlternatingMap work.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 3]
```diff
@@ -0,0 +1,275 @@
...
+  intro σ hσ
+  have hσ1 : σ ≠ 1 := by
+    contrapose! hσ
+    simp [filterp, hσ]
+  obtain ⟨i, hi⟩ := not_forall.mp (mt Perm.ext_iff.mpr hσ1)
+  exact prod_eq_zero (mem_univ i) (one_apply_ne' hi)
+
+/-- Filter adjugate matrix by parity. -/
+def adjp : Matrix n n R :=
+  fun i j ↦ ∑ σ ∈ (filterp s).filter fun σ ↦ σ j = i, ∏ k ∈ {j}ᶜ, A k (σ k)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:71]:
```suggestion
  of fun i j ↦ ∑ σ ∈ (filterp s).filter fun σ ↦ σ j = i, ∏ k ∈ {j}ᶜ, A k (σ k)
```

**Review by eric-wieser — COMMENTED** [review]
It's a little sad that this seems to have to redevelop the theory of determinants all over again; can you somehow avoid this by tensoring your ring with `Int`, and then applying the standard theory? Or is that more painful / less general?

File: Mathlib/Algebra/Module/End.lean [hunk 4]
```diff
@@ -57,9 +57,14 @@ def smulAddHom : R →+ M →+ M :=
 variable {R M}
 
 @[simp]
-theorem smulAddHom_apply (r : R) (x : M) : smulAddHom R M r x = r • x :=
+theorem smulAddHom_apply : smulAddHom R M r x = r • x :=
   rfl
 
+variable {r}
+
+lemma IsAddUnit.smul (hr : IsAddUnit r) : IsAddUnit (r • x) :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/End.lean:65]: I think I'd expect this to be `smul_const`, to disambiguate from `const_smul` which I assume also holds?

**Review by alreadydone — COMMENTED** [review]
I'm amazed that this works out :) A consequence is that a nontrivial CommSemiring satisfies [RankCondition](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/InvariantBasisNumber.html#RankCondition), but I'm not sure about StrongRankCondition ...

File: Mathlib/Algebra/Module/End.lean [hunk 5]
```diff
@@ -60,9 +60,14 @@ variable {R M}
...
-variable {r}
+variable {x}
 
-lemma IsAddUnit.smul (hr : IsAddUnit r) : IsAddUnit (r • x) :=
+lemma IsAddUnit.const_smul (hx : IsAddUnit x) : IsAddUnit (r • x) :=
+  hx.map (smulAddHom R M r)
+
+variable {r} (x)
+
+lemma IsAddUnit.smul_const (hr : IsAddUnit r) : IsAddUnit (r • x) :=
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/End.lean:70]: I don't think `const` is used in this sense? How about `smul_left/right`?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 6]
```diff
@@ -220,21 +220,20 @@ theorem detp_smul_adjp (hAB : A * B = 1) :
...
+  suffices h : ∀ A B : Matrix n n R, A * B = 1 → B * A = 1 from ⟨h A B, h B A⟩
   intro A B hAB
   have h0 := detp_mul A B
   rw [hAB, detp_one_one, detp_neg_one_one, zero_add] at h0
   have h := detp_smul_adjp hAB
-  replace h := congr_arg (B * ·) h
+  replace h := congr(B * $h)
   simp only [mul_add, mul_smul, add_assoc] at h
-  replace h := congr_arg (· + (detp 1 A * detp (-1) B + detp (-1) A * detp 1 B) • 1) h
+  replace h :=  congr($h + (detp 1 A * detp (-1) B + detp (-1) A * detp 1 B) • 1)
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:236]:
```suggestion
  replace h := congr($h + (detp 1 A * detp (-1) B + detp (-1) A * detp 1 B) • 1)
```

File: Mathlib/Algebra/Module/End.lean [hunk 7]
```diff
@@ -57,9 +57,19 @@ def smulAddHom : R →+ M →+ M :=
...
 
 @[simp]
-theorem smulAddHom_apply (r : R) (x : M) : smulAddHom R M r x = r • x :=
+theorem smulAddHom_apply : smulAddHom R M r x = r • x :=
   rfl
 
+variable {x}
+
+lemma IsAddUnit.smul_left (hx : IsAddUnit x) : IsAddUnit (r • x) :=
+  hx.map (smulAddHom R M r)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/End.lean:66]: I think
```suggestion
lemma IsAddUnit.smul_left (hx : IsAddUnit x) : IsAddUnit (r • x) :=
  hx.map (DistribMulAction.toAddMonoid R M r)
```
is enough here, which doesn't need `Module`.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 8]
```diff
@@ -0,0 +1,278 @@
...
+    (ofSign 1).disjUnion (ofSign (-1)) ofSign_disjoint = (univ : Finset (Perm n)) := by
+  ext σ
+  simp_rw [mem_disjUnion, mem_ofSign, Int.units_eq_one_or, mem_univ]
+
+end Equiv.Perm
+
+namespace Matrix
+
+/-- Filter determinant by parity. -/
+def detp : R := ∑ σ ∈ ofSign s, ∏ k, A k (σ k)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:52]: Can you add a theorem for rings that links this to `det`?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 9]
```diff
@@ -0,0 +1,278 @@
...
+  replace hσ k : σ (swap i j k) = σ k := by
+    rw [swap_apply_def]
+    split_ifs with h h <;> simp only [hσ, h]
+  rw [← mul_neg_one, hf (mem_ofSign.mpr (sign_swap hij)), sum_map]
+  simp_rw [prod_mul_distrib, mulRightEmbedding_apply, Perm.mul_apply]
+  refine sum_congr rfl fun τ hτ ↦ congr_arg (_ *  ·) ?_
+  rw [← Equiv.prod_comp (swap i j)]
+  simp only [hσ]
+
+theorem mul_adjp_add_detp_apply_eq : (A * adjp s A) i i = detp s A := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:121]:
```suggestion
theorem mul_adjp_apply_eq : (A * adjp s A) i i = detp s A := by
```

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 10]
```diff
@@ -0,0 +1,278 @@
...
+  have key := sum_fiberwise_eq_sum_filter (ofSign s) univ (· i) fun σ ↦ ∏ k, A k (σ k)
+  simp_rw [mem_univ, filter_True] at key
+  simp_rw [mul_apply, adjp_apply, mul_sum, detp, ← key]
+  refine sum_congr rfl fun x hx ↦ sum_congr rfl fun σ hσ ↦ ?_
+  rw [← prod_mul_prod_compl ({i} : Finset n), prod_singleton, (mem_filter.mp hσ).2]
+
+theorem mul_adjp_add_detp_apply_ne (h : i ≠ j) : (A * adjp 1 A) i j = (A * adjp (-1) A) i j := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:128]:
```suggestion
theorem mul_adjp_apply_ne (h : i ≠ j) : (A * adjp 1 A) i j = (A * adjp (-1) A) i j := by
```

File: Mathlib/Algebra/Module/End.lean [hunk 11]
```diff
@@ -57,9 +57,20 @@ def smulAddHom : R →+ M →+ M :=
...
 @[simp]
-theorem smulAddHom_apply (r : R) (x : M) : smulAddHom R M r x = r • x :=
+theorem smulAddHom_apply : smulAddHom R M r x = r • x :=
   rfl
 
+variable {x}
+
+lemma IsAddUnit.smul_left [Monoid S] [DistribMulAction S M] (hx : IsAddUnit x) (s : S) :
+    IsAddUnit (s • x) :=
+  hx.map (DistribMulAction.toAddMonoidHom M s)
```
Comment (tb65536) [inline Mathlib/Algebra/Module/End.lean:67]: (just noting that there doesn't seem to be a better home for this lemma, since the only lower-down file would be `Algebra/Module/NatInt` which isn't a good fit).

File: Mathlib/Data/Matrix/Defs.lean [hunk 12]
```diff
@@ -320,6 +320,12 @@ def ofAddEquiv [Add α] : (m → n → α) ≃+ Matrix m n α where
 @[simp] lemma coe_ofAddEquiv_symm [Add α] :
     ⇑(ofAddEquiv.symm : Matrix m n α ≃+ (m → n → α)) = of.symm := rfl
 
+@[simp] lemma isAddUnit_iff [AddMonoid α] {A : Matrix m n α} :
+    IsAddUnit A ↔ ∀ i j, IsAddUnit (A i j) := by
+  simp_rw [isAddUnit_iff_exists, Classical.skolem, forall_and,
+    ← Matrix.ext_iff, add_apply, zero_apply]
+  rfl
```
[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/Data/Matrix/Defs.lean:327]: I'm not sure. The two sides look exactly the same in the infoview, but for some reason simp doesn't close the goal.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 13]
```diff
@@ -0,0 +1,276 @@
...
+  rw [isAddUnit_iff]
+  intro i j
+  simp_rw [smul_apply, smul_eq_mul, mul_apply, detp, adjp_apply, mul_sum, sum_mul,
+    IsAddUnit.sum_iff]
+  intro k hk σ hσ τ hτ
+  rw [mem_filter] at hσ
+  rw [mem_ofSign] at hσ hτ
+  rw [← hσ.1, ← hτ, ← sign_inv] at h
+  replace h := ne_of_apply_ne sign h
+  rw [Ne, eq_comm, eq_inv_iff_mul_eq_one] at h
```
Comment (madvorak) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:198]: What does `rw [Ne]` mean?

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 14]
```diff
@@ -0,0 +1,276 @@
...
+    (ofSign 1).disjUnion (ofSign (-1)) ofSign_disjoint = (univ : Finset (Perm n)) := by
+  ext σ
+  simp_rw [mem_disjUnion, mem_ofSign, Int.units_eq_one_or, mem_univ]
+
+end Equiv.Perm
+
+namespace Matrix
+
+/-- Filter determinant by parity. -/
+def detp : R := ∑ σ ∈ ofSign s, ∏ k, A k (σ k)
```
[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:49]: Is it just summing up over all permutations in "different order" ? I mean summing up the even ones and odd ones and then putting it together?

**Review by madvorak — APPROVED** [review]

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:198]: I think probably `ne_eq` is the preferred way to write this, but certainly just a nit.

File: Mathlib/Algebra/Module/End.lean [hunk 15]
```diff
@@ -57,9 +57,20 @@ def smulAddHom : R →+ M →+ M :=
 variable {R M}
 
 @[simp]
-theorem smulAddHom_apply (r : R) (x : M) : smulAddHom R M r x = r • x :=
+theorem smulAddHom_apply : smulAddHom R M r x = r • x :=
```
[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/Algebra/Module/End.lean:60]: Because the variables are redundant.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 16]
```diff
@@ -0,0 +1,276 @@
...
+
+This files proves `A * B = 1 ↔ B * A = 1` for square matrices over a commutative semiring.
+
+-/
+
+open Equiv Equiv.Perm Finset
+
+variable {n m R : Type*} [Fintype m] [Fintype n] [DecidableEq m] [DecidableEq n] [CommSemiring R]
+
+variable (s : ℤˣ) (A B : Matrix n n R) (i j : n)
```
[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:21]: It's nice to avoid repeating the same variables over and over. And they'll show up in doc-gen.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 17]
```diff
@@ -0,0 +1,275 @@
...
+
+theorem mul_adjp_add_detp : A * adjp 1 A + detp (-1) A • 1 = A * adjp (-1) A + detp 1 A • 1 := by
+  ext i j
+  rcases eq_or_ne i j with rfl | h <;> simp_rw [add_apply, smul_apply, smul_eq_mul]
+  · simp_rw [mul_adjp_apply_eq, one_apply_eq, mul_one, add_comm]
+  · simp_rw [mul_adjp_apply_ne A i j h, one_apply_ne h, mul_zero]
+
+variable {A B}
+
+theorem isAddUnit_mul (hAB : A * B = 1) (i j k : n) (hij : i ≠ j) : IsAddUnit (A i k * B k j) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:162]: This lemma is also true for `A * B = scalar c`.
Which other parts of this PR generalize to that case?

**Review by jcommelin — COMMENTED** [review]
Concerning the question of reducing to the case of commutative rings:
- The following statement
```
theorem mul_adjp_add_detp : A * adjp 1 A + detp (-1) A • 1 = A * adjp (-1) A + detp 1 A • 1 := by
```
is universal, and hence can be proven for any comm semiring by pulling back the question to mv polynomials over `Nat`, and subsequently embedding in mv polynomials over `Int`.
- I don't think it is worth the effort to setup the machinery. I'm not sure it would actually reduce the total LoC.

**Comment by alreadydone** [comment]
> The following statement
`theorem mul_adjp_add_detp : A * adjp 1 A + detp (-1) A • 1 = A * adjp (-1) A + detp 1 A • 1 := by`
is universal, and hence can be proven for any comm semiring by pulling back the question to mv polynomials over `Nat`, and subsequently embedding in mv polynomials over `Int`.

Good point! I think everything before this theorem is universal too, including the one concerining `detp (A * B)`, since they don't use the condition `A * B = 1`.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean (hunk 17 above)
Comment (tb65536) [reply Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean:162]: The `isAddUnit` lemmas should all generalize to diagonal matrices (although that would currently result in a circular import since the `NonsingularInverse` file is quite low-level). I think the conclusion `A * B = 1 ↔ B * A = 1` should generalize to `scalar c` with `IsUnit c`. But this generalization can be proved directly from the identity-matrix-version, which would probably be clearer than trying to shoehorn `scalar c` into the existing proofs.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by alreadydone** [comment]
> A consequence is that a nontrivial CommSemiring satisfies RankCondition

PR'd this as #20584

**Comment by alreadydone** [comment]
In fact the property in the title is called "stably finite" and it's known it implies the rank condition, which is what I did in #20584. Excerpt from Lam's GTM 189:
image
